US08080541B2
Prepared from 2-(2-ethyl-3-methyl-4-trifluoromethyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole and methyl iodide in analogy to intermediate V step 3. 2-(2-Ethyl-3-methyl-4-trifluoromethyl-phenyl)-3,4,4-trimethyl-4,5-dihydro-oxazol-3-ium iodide was obtained as colourless solid: MS (ISP): 300.1 (M+).

reactant | 2-(2-ethyl-3-methyl-4-trifluoromethyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole | C(C)C1=C(C=CC(=C1C)C(F)(F)F)C=1OCC(N1)(C)C | C15H18F3NO
reactant | methyl iodide | CI | CH3I
product | 2-(2-Ethyl-3-methyl-4-trifluoromethyl-phenyl)-3,4,4-trimethyl-4,5-dihydro-oxazol-3-ium iodide | [I-].C(C)C1=C(C=CC(=C1C)C(F)(F)F)C=1OCC([N+]1C)(C)C | InChI=1S/C16H21F3NO.HI/c1-6-11-10(2)13(16(17,18)19)8-7-12(11)14-20(5)15(3,4)9-21-14;/h7-8H,6,9H2,1-5H3;1H/q+1;/p-1
